US09079866B2
4′-(5-Amino-3-cyanopyrazin-2-yl)-N-ethyl-3′-fluoro-4-(trifluoromethyl)-[1,1′-biphenyl]-2-sulfonamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide. MS (ESI): mass calcd. for C20H15F4N5O2S, 465.09; m/z found, 465.8 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.26 (s, 2H), 8.11-8.07 (m, 1H), 7.87-7.81 (m, 1H), 7.72 (d, J=7.9, 1H), 7.69-7.63 (m, 1H), 7.45 (dd, J=10.8, 1.7, 1H), 7.43-7.36 (m, 3H), 2.78 (qd, J=7.2, 5.5, 2H), 0.97 (t, J=7.2, 3H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCC | C9H9BrF3NO2S
product | 4′-(5-Amino-3-cyanopyrazin-2-yl)-N-ethyl-3′-fluoro-4-(trifluoromethyl)-[1,1′-biphenyl]-2-sulfonamide | NC=1N=C(C(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)S(=O)(=O)NCC)F)C#N | C20H15F4N5O2S
